US07195649B2
17.4 g (92 mmol) of 5-amino-1-(4-methoxyphenyl)pyrazole [sic] from Step 1.1 was dissolved in 200 mL of tetrahydrofuran, 52.4 g of 32% hydrochloric acid was added, and the mixture was cooled to 0–5° C. Then 11.8 g (101 mmol) of isopentyl nitrite was added dropwise with agitation so that the temperature did not exceed 5° C. Gradually, a brownish precipitate formed which after an additional 2-hour agitation period in an ice bath was removed by suction filtration and washed with a small amount of tetrahydrofuran. Drying gave 16.4 g (64 mmol, 70% of the theoretical) of 5-amino-1-(4-methoxyphenyl)-4-nitrosopyrazole hydrochloride.

reactant | 5-amino-1-(4-methoxyphenyl)pyrazole | 92 mmol, 17.4 g | NC1=CC=NN1C1=CC=C(C=C1)OC | C10H11N3O
reactant | hydrochloric acid | 52.4 g | Cl | ClH
reactant | isopentyl nitrite | 101 mmol, 11.8 g | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-amino-1-(4-methoxyphenyl)-4-nitrosopyrazole hydrochloride | Cl.NC1=C(C=NN1C1=CC=C(C=C1)OC)N=O | InChI=1S/C10H10N4O2.ClH/c1-16-8-4-2-7(3-5-8)14-10(11)9(13-15)6-12-14;/h2-6H,11H2,1H3;1H
